US07795423B2
(2,2,2-trifluoro-acetylamino)-hexanoyl chloride
735 mg(3 mmol) (2,2,2-trifluoro-acetylamino)-hexanoic acid were dissolved in 5 mL dried dichloromethane and stirred under argon flux at 0° C. Then, 0.6 mL (6.6 mmol) oxalyl chloride were added dropwise at 0° C., a few drops of dried dimethylformamide were also added dropwise which lead to gas development and yellow colouring of the previously white mixture. The mixture, was stirred at room temperature for 70 min. Then the mixture was repeatedly evaporated with dichloromethane. The crude product was used directly in the next step.

reactant | (2,2,2-trifluoro-acetylamino)-hexanoic acid | 3 mmol, 735 mg | FC(C(=O)NC(C(=O)O)CCCC)(F)F | C8H12F3NO3
reactant | oxalyl chloride | 6.6 mmol, 0.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | (2,2,2-trifluoro-acetylamino)-hexanoyl chloride | FC(C(=O)NCCCCCC(=O)Cl)(F)F | C8H11ClF3NO2
